* OPA859
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: OPA859
* Date: 07/24/2018
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.2
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: N/A
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* The following parameters are modeled: 
* Input Offset Voltage, Input Bias Current, VIH/VIL, DC CMRR,
* small signal freq response, Input Referred Voltage Noise, 
* Input Referred Current Noise, Slew Rate,
* Short Circuit Output Current, VOH/VOL, VOH/VOL vs. Output Current
* Iq_on, Iq_off, PSRR
*****************************************************************************




.SUBCKT OPA859 INP INN VCC VEE OUT PD
XU1         VCC VEE PD OUT INP INN VFA_HT6_0
.ENDS

.SUBCKT VFA_HT6_0 VCC VEE PD VOUT Vinp Vinm
Vprobe2     HighZ net41 0
VDomPoleBias net32 0 0
Vprobe1     net31 HighZ 0
XI30        net71 VOUT Power VCC_INT VEE_INT VEE VCC OutputCir_0
XI52        Vinp_int Vinm_int net32 net31 VEE_INT VCC_INT Power GMITAIL_0
+ PARAMS: CHOICE=1 GM=4.668M SBF=1 ITAILMAX_X1={3.0} ITAILMAX_Y1={1.081M}
+ ITAILMAX_X2={5.0} ITAILMAX_Y2={1.081M} ITAILMIN_X1={3.0}
+ ITAILMIN_Y1={0.93M} ITAILMIN_X2={5.0} ITAILMIN_Y2={0.93M}
XI60        Vinp_int Vinm_int IBIAS_0
+ PARAMS: CHOICE=1 IBIAS={28.94F-3P} IOFFSET={0.726F+0.5F} TA=27 IBIASDRIFT=299F
+ IOFFSETDRIFT=0.540F IBIASP=1F IBIASM=1F
XI56        VCC_INT net22 Vinm_int VEE_INT Vinrange1_0
XI54        VCC_INT net21 Vinp_int VEE_INT Vinrange1_0
XI21        25 net22 25 CMRR_0
+ PARAMS: CMRR_DC=-113 CMRR_F3DB=1230K CMRR_F3DB_FUDGEFACTOR=1 
XI19        VCC_INT VEE_INT net2 25 PSRR_0
+ PARAMS: PSRRP_DC=-97 PSRRP_F3DB=100K PSRRN_DC=-79.56 PSRRN_F3DB=90K 
XI59        net21 net11 VINOFFSET_0
+ PARAMS: TA=27 VOS=78.89U DRIFT=1.26U 
XI18        net11 0 INOISE_0
+ PARAMS: X={0.1M} Y={432F} Z={4.32F} 
XI63        net2 0 INOISE_0
+ PARAMS: X={0.1M} Y={432F} Z={4.32F} 
XI17        net1 net11 VNOISE_0
+ PARAMS: X={1} Y={1210N} Z={3.03N} 
XI53        Vinp Vinm net1 net2 Zin_0
XINV1       PDinv Power VCC_INT VEE_INT HPA_INV_IDEAL_0
XINV3       PD PDinv VCC_INT VEE_INT HPA_INV_IDEAL_0
R14         VCC_INT PD 10MEG 
XI28        VCC_INT net41 NET51 VEE_INT RecoveryCircuit_0
XI40        VCC VEE Power VEE_INT VCC_INT IQ_0
+ PARAMS: IOFF={66.59U} ION_X1={0.0} ION_Y1={20.21M} ION_X2={1.6}
+ ION_Y2={20.21M} ION_X3={1.9} ION_Y3={20.21M} ION_X4={12.0}
+ ION_Y4={20.21M}
EVCVS2      VEE_INT 0 VEE 0  1
EVCVS1      VCC_INT 0 VCC 0  1
XI85        0 0 net71 net61 PhaseDelay_0
XI26        0 NET51 net61 NonDomPole_0
XI56_2      net32 HighZ 0 DomPole_0
.ENDS

.SUBCKT OutputCir_0 Vin Vout PD VCC VEE VEEmain VCCmain
Vprobe4     43 38 0
VProbe3     45 VOH 0
Rout        35 36 10.2 
Lout2       37 38 1P  
RBYP        36 37 100 
Cp2         39 0 975F 
Rp2         38 39 1M 
Lout1       36 37 825P  
RVIMONINV   VIMONINV 0 1G 
VCurSinkDetect_in Vout 40
HCurSinkDetect VIMONINV 0 VCurSinkDetect_in 1
RVIMON      VIMON 0 1G 
VCurSourceDetect_in 38 40
HCurSourceDetect VIMON 0 VCurSourceDetect_in 1
XIVOL       VOL VEE VIMONINV OUTPUTCIR_VOHVOL_0
XIVOH       VCC VOH VIMON OUTPUTCIR_VOHVOL_1
XI15        43 VOL DIODEIDEAL_0
Routminor   44 36 16.5 
Cout        35 44 5N 
XU1         VCCmain VEEmain VIMON PD OUTPUTCIR_ILOAD_0
XI14        45 38 DIODEIDEAL_0
EVCVS1      35 0 Vin 0  1
.ENDS


.SUBCKT Vinrange1_0 VCC Vin Vout VEE
VIL         57 VEE -250M
VIH         VCC 58 1.25
V0          56 Vout 0
XIDVIL      56 57 DIODEIDEAL_0
XIDVIH      58 56 DIODEIDEAL_0
R0          Vin 56 1M 
.ENDS


.SUBCKT Zin_0 in1 in2 out1 out2
GR2         out2 0 out2 0  8P
R5          in2 out2 100M 
C2          0 out2 620F 
GR3         out1 out2 out1 out2  8P
GR1         0 out1 0 out1  8P
C3          out2 out1 200F 
C1          out1 0 620F 
R4          in1 out1 100M 
.ENDS


.SUBCKT RecoveryCircuit_0 VCC A B VEE
Vbridge     95 A 0
Vprobe      A B 0
VRecL       96 VEE -200
VRecH       VCC 97 -200
XIDVIL      95 96 DIODEIDEAL_0
XIDVIH      97 95 DIODEIDEAL_0
.ENDS


.SUBCKT PhaseDelay_0 A B Vout Vin
R6          105 A 1K 
L1          Vout 105 50N  
GVCCS1      A Vout 106 A  1M
R4          107 A 1G 
C1          108 A 1F 
R3          107 108 1M 
EVCVS1      109 A Vin A  1
R2          106 A 190 
C2          110 A 1P 
R5          106 110 1M 
L0          107 106 1N  
R1          109 107 1M 
.ENDS


.SUBCKT NonDomPole_0 C Vin Vout
EVCVS1      111 C Vin C  1
R3          Vout C 1G 
C1          112 C 126.5P 
R2          Vout 112 1M 
L0          113 Vout 1P  
R1          111 113 1 
.ENDS


.SUBCKT DomPole_0 B A C
C1          A B 714F 
R1          A B 479.6K 
C2          114 C 1F 
R2          A 114 1M 
.ENDS




.SUBCKT GMITAIL_0   VINP VINM IOUTP IOUTM VEE VCC PD PARAMS:
+ CHOICE  = 2

+ GM          = 3.77E-2
+ SBF  = 1 

+ ITAILMAX_X1  = { 3.0 }
+ ITAILMAX_Y1  = { 10M }

+ ITAILMAX_X2  = { 5.0 }
+ ITAILMAX_Y2  = { 10M }

+ ITAILMIN_X1  = { 3.0 }
+ ITAILMIN_Y1  = { 10M }

+ ITAILMIN_X2  = { 5.0 }
+ ITAILMIN_Y2  = { 10M }



.PARAM CHOICE1   = { IF ( CHOICE == 1,  1, 0 ) }
.PARAM CHOICE2   = { IF ( CHOICE == 2,  1, 0 ) }
.PARAM CHOICE3  = { IF ( CHOICE == 3,  1, 0 ) }
.PARAM CHOICE11  = { IF ( CHOICE == 11, 1, 0 ) }



X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1




.PARAM ITAILMAX_SLOPE = 
+ { ( ITAILMAX_Y2 - ITAILMAX_Y1 ) / ( ITAILMAX_X2 - ITAILMAX_X1 ) }
.PARAM ITAILMAX_INTCP = 
+ { ITAILMAX_Y1 - ITAILMAX_SLOPE * ITAILMAX_X1 }

EITAILMAX ITAILMAX 0 VALUE = 
+ { ITAILMAX_SLOPE * V(VCC,VEE) + ITAILMAX_INTCP  }


.PARAM ITAILMIN_SLOPE = 
+ { ( ITAILMIN_Y2 - ITAILMIN_Y1 ) / ( ITAILMIN_X2 - ITAILMIN_X1 ) }
.PARAM ITAILMIN_INTCP = 
+ { ITAILMIN_Y1 - ITAILMIN_SLOPE * ITAILMIN_X1 }

EITAILMIN ITAILMIN 0 VALUE = 
+ { ITAILMIN_SLOPE * V(VCC,VEE) + ITAILMIN_INTCP  }


G1 IOUTP IOUTM VALUE = { ( 1-V(PDINV) ) * (
+ CHOICE1  * ( LIMIT ( GM * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +
+ CHOICE2  * ( GM * (V(ITAILMAX)/GM) * TANH( V(VINP,VINM) / (V(ITAILMAX)/GM) )   ) + 
+ CHOICE3  * ( GM * V(VINP,VINM) / ( 1 + GM/V(ITAILMAX) * ABS( V(VINP,VINM) ) ) ) +                
+ CHOICE11 * ( LIMIT ( ( GM * EXP ( LIMIT ( SBF * ABS(V(VINP,VINM)) , -LOG(1E100), LOG(1E100) ) ) ) 
+                     * V(VINP,VINM) , -V(ITAILMIN), V(ITAILMAX) ) ) +

+ 0        ) }

.ENDS




.SUBCKT IBIAS_0  VINP VINM PARAMS:
+ CHOICE       = 1

+ IBIAS        = -10U
+ IOFFSET      = 150N

+ TA           = 25
+ IBIASDRIFT   = 0
+ IOFFSETDRIFT = 0

+ IBIASP       =  -9.925U
+ IBIASM       = -10.075U

.PARAM CHOICE1 = { IF ( CHOICE == 1, 1, 0 ) }
.PARAM CHOICE2 = { IF ( CHOICE == 2, 1, 0 ) }

.PARAM IB = { CHOICE1 * IBIAS   + CHOICE2 * (IBIASP + IBIASM)/2  }
.PARAM IO = { CHOICE1 * IOFFSET + CHOICE2 * ABS(IBIASP - IBIASM) } 

EIB IB 0 VALUE = { IBIASDRIFT   * TEMP + ( IB - IBIASDRIFT   * TA ) }
EIO IO 0 VALUE = { IOFFSETDRIFT * TEMP + ( IO - IOFFSETDRIFT * TA ) }

GIBP VINP 0 VALUE = { V(IB) + V(IO)/2 }
GIBM VINM 0 VALUE = { V(IB) - V(IO)/2 }

.ENDS


.SUBCKT CMRR_0  A B C PARAMS:

+ CMRR_DC          = -100
+ CMRR_F3DB             = 50E3
+ CMRR_F3DB_FUDGEFACTOR = 3.4

.PARAM CMRR       = {0-CMRR_DC}
.PARAM FCMRR   = {CMRR_F3DB * CMRR_F3DB_FUDGEFACTOR}

X1 A B C 0 CMRR_NEW PARAMS: CMRR = {CMRR} FCMRR = {FCMRR}
.ENDS


.SUBCKT CMRR_NEW   VI  VO VX GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VX GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = {V(101,102)/1E6}
CA  102 GNDF 1E3
EB  1 1A VALUE = {V(102,GNDF)}

E1  VI VO 1A GNDF 1
.ENDS


.SUBCKT PSRR_0  VDD VSS A B PARAMS:

+ PSRRP_DC    = -100
+ PSRRP_F3DB  = 100K

+ PSRRN_DC    = -90
+ PSRRN_F3DB  = 90K

.PARAM PSRRP       = {0-PSRRP_DC}
.PARAM PSRRN       = {0-PSRRN_DC}
.PARAM FPSRRP      = {PSRRP_F3DB}
.PARAM FPSRRN      = {PSRRN_F3DB}


X1 VDD VSS A B 0 PSRR_DUAL_NEW PARAMS:
+ PSRRP = {PSRRP} FPSRRP = {FPSRRP}
+ PSRRN = {PSRRN} FPSRRN = {FPSRRN}
.ENDS


.SUBCKT PSRR_DUAL_NEW   VDD  VSS  VI  VO  GNDF 
+ PARAMS: PSRRP = 130 FPSRRP = 1.6
+ PSRRN = 130 FPSRRN = 1.6
.PARAM PI = 3.141592
.PARAM RPSRRP = 1
.PARAM GPSRRP = {PWR(10,-PSRRP/20)/RPSRRP}
.PARAM LPSRRP = {RPSRRP/(2*PI*FPSRRP)}
.PARAM RPSRRN = 1
.PARAM GPSRRN = {PWR(10,-PSRRN/20)/RPSRRN}
.PARAM LPSRRN = {RPSRRN/(2*PI*FPSRRN)}

G1  GNDF 1 VDD GNDF {GPSRRP}
R1  1 2 {RPSRRP}
L1  2 GNDF {LPSRRP}

EA  101 GNDF 1 GNDF 1
GRA  101 102 VALUE = { V(101,102)/1E6 }
CA  102 GNDF 1E3
EB  1 1A VALUE = {V(102,GNDF)}


G2  GNDF 3 VSS GNDF {GPSRRN}
R2  3 4 {RPSRRN}
L2  4 GNDF {LPSRRN}

EC  301 GNDF 3 GNDF 1
GRC  301 302 VALUE = { V(301,302)/1E6 }
CC  302 GNDF 1E3
ED  3 3A VALUE = {V(302,GNDF)}


E1  VO VI VALUE = {V(1A,GNDF) + V(3A,GNDF)}
C3  VDD VSS 10P
.ENDS


.SUBCKT VINOFFSET_0  POS NEG PARAMS: 
+ TA     = 25
+ VOS    = 500U
+ DRIFT  = 10U 

* Y = M*X + C
* Y = DRIFT * TEMP + C

* Y(25) = DRIFT * 25 + C
* C = Y(25) - DRIFT * 25

* Y = DRIFT * TEMP + ( Y(25) - DRIFT * 25 ) 

E1 POS NEG VALUE = { DRIFT * TEMP + ( VOS - DRIFT * TA     ) }



.ENDS


.SUBCKT INOISE_0  A B PARAMS:
*THE FOLLOWING UNITS HAVE BEEN NORMALIZED TO "AMPS" AND "HZ"
*THE FEMT BLOCK UNITS ARE "FEMTO-AMPS" AND "HZ".  
+ X = { 1M  }
+ Y = { 100F }
+ Z = { 1F }
X1 A B FEMT PARAMS: NLFF = { Y/1F }  FLWF = { X } NVRF = { Z/1F }
.ENDS



.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS



.SUBCKT VNOISE_0  A B PARAMS:
*THE FOLLOWING UNITS HAVE BEEN NORMALIZED TO "VOLTS" AND "HZ"
*THE VNSE BLOCK UNITS ARE "NANO-VOLTS" AND "HZ".  
+ X = { 1M  }
+ Y = { 100N }
+ Z = { 5N  }
X1 A B VNSE PARAMS: NLF = { Y/1N } FLW = { X }  NVR = { Z/1N }
.ENDS


* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ



.SUBCKT HPA_INV_IDEAL_0  1 2 VDD VSS
E1 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
.ENDS


.SUBCKT IQ_0  VCCMAIN VEEMAIN PD VEE VCC PARAMS:
+ IOFF = { 1N }

+ ION_X1 = { 0.0 }
+ ION_Y1 = { 1M }

+ ION_X2 = { 1.6 }
+ ION_Y2 = { 1M }

+ ION_X3 = { 1.9 }
+ ION_Y3 = { 1M }

+ ION_X4 = { 12.0 }
+ ION_Y4 = { 1M }

*PD = 1 => DEVICE ON
*PD = 0 => DEVICE OFF

EION_SEG1 ION_SEG1 0 VALUE = { IF (             V(VCC,VEE) <= ION_X2, 1, 0 ) }
EION_SEG2 ION_SEG2 0 VALUE = { IF ( V(VCC,VEE) > ION_X2 & V(VCC,VEE) <= ION_X3, 1, 0 ) }
EION_SEG3 ION_SEG3 0 VALUE = { IF ( V(VCC,VEE) > ION_X3                , 1, 0 ) }



.PARAM ION_SEG1_SLOPE = { ( ION_Y2 - ION_Y1 ) / ( ION_X2 - ION_X1 ) }
.PARAM ION_SEG1_INTCP = { ION_Y1 - ION_SEG1_SLOPE * ION_X1 }

.PARAM ION_SEG2_SLOPE = { ( ION_Y3 - ION_Y2 ) / ( ION_X3 - ION_X2 ) }
.PARAM ION_SEG2_INTCP = { ION_Y2 - ION_SEG2_SLOPE * ION_X2 }

.PARAM ION_SEG3_SLOPE = { ( ION_Y4 - ION_Y3 ) / ( ION_X4 - ION_X3 ) }
.PARAM ION_SEG3_INTCP = { ION_Y3 - ION_SEG3_SLOPE * ION_X3 }



EION ION 0 VALUE = {  V(ION_SEG1) * ( ION_SEG1_SLOPE * V(VCC,VEE) + ION_SEG1_INTCP ) +
+   V(ION_SEG2) * ( ION_SEG2_SLOPE * V(VCC,VEE) + ION_SEG2_INTCP ) +
+    V(ION_SEG3) * ( ION_SEG3_SLOPE * V(VCC,VEE) + ION_SEG3_INTCP )  }

*EION ION 0 VALUE = { ION_SEG3_SLOPE  }


X1 PD PDINV VCC VEE LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VCCMAIN VEEMAIN VALUE = { V(ION) * ( 1-V(PDINV) ) + IOFF * V(PDINV) }  

.ENDS





.SUBCKT OUTPUTCIR_VOHVOL_0  A B C

E1 A B TABLE { V(C) } =  
+ (0,1.05) 
+ (115M,1.05)
+ (116M,1.5)
+ (117M,2.0)
+ (118M,3.0)
+ (119M,4.0)
+ (120M,5.0) 

.ENDS


.SUBCKT OUTPUTCIR_VOHVOL_1  A B C

E1 A B TABLE { V(C) } =  
+ (0,0.9) 
+ (115M,0.9)
+ (116M,1.0)
+ (117M,2.0)
+ (118M,3.0)
+ (119M,4.0)
+ (120M,5.0) 


.ENDS


.SUBCKT DIODEIDEAL_0  NEG POS

G1 POS NEG VALUE = { IF ( V(POS,NEG) <= 0 , 0, V(POS,NEG)*0.01G ) }
R0 POS NEG 1000G

.ENDS


.SUBCKT OUTPUTCIR_ILOAD_0   VDD VSS VIMON PD
X1 PD PDINV VDD VSS LOGIC1 0 DLSINV
VLOGIC1 LOGIC1 0 1

G1 VDD 0 VALUE = {IF(V(VIMON) >= 0, V(VIMON)*( 1-V(PDINV) ), 0)}
G2 VSS 0 VALUE = {IF(V(VIMON)  < 0, V(VIMON)*( 1-V(PDINV) ), 0)}

.ENDS


.SUBCKT DLSINV 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) > (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1P
.ENDS


.END
